US06344449B1
a) Methyl 4-(ethoxycarbonylamino)-thiophene-3-carboxylate
A mixture of 50.0 g (0.258 mol) of methyl 4-aminothiophen-3-carboxylate-hydrochloride, 700 ml of toluene, 26 g (0.257 mol) of triethylamine and 27 ml (0.283 mol) of ethyl chlorocarbonate was refluxed for 5 hours. The insoluble matter was filtered off, the filtrate was evaporated down in vacuo and the residue was crystallised from petroleum ether. 59.0 g (99.8% of theory) of colourless crystals of melting point 52° C. were obtained.

reactant | methyl 4-aminothiophen-3-carboxylate-hydrochloride | 0.258 mol, 50.0 g | Cl.NC=1C(=CSC1)C(=O)OC
reactant | triethylamine | 0.257 mol, 26 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.283 mol, 27 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(ethoxycarbonylamino)-thiophene-3-carboxylate | C(C)OC(=O)NC=1C(=CSC1)C(=O)OC | C9H11NO4S
